US07858781B2
(1) Step A: 4-Hydroxy-1H-indole-2-carboxylic acid ethyl ester (79)
To a solution of 4-Benzyloxy-1H-indole-2-carboxylic acid ethyl ester (29 g, 98.2 mmol) in a mixture of MeOH (750 ml) and DCM (500 ml) is added 1 gram of Pd/C (10%). It is hydrogenated under normal pressure for 24 hours. After filtration and evaporation a white powder is obtained.

reactant | 4-Benzyloxy-1H-indole-2-carboxylic acid ethyl ester | 98.2 mmol, 29 g | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)OCC1=CC=CC=C1 | C18H17NO3
solvent | MeOH | 750 ml | CO | CH4O
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 1 gram | [Pd] | Pd
product | 4-Hydroxy-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)O | C11H11NO3
